US07435837B2
Treatment of (±)-1-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanamine (3.41 g, 12.3 mmol) with diisopropylethylamine (1.99 g, 14.2 mmol) and benzyl chloroformate (2.42 g, 14.2 mmol) generally according to the procedure described for Intermediate 12 gave 3.74 g (81%) of (±)-benzyl(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a colorless oil. Anal. calcd. for C21H24ClNO3 C, 67.46; H, 6.47; N, 3.75. Found C, 67.01; H, 6.52; N, 3.56. Chiral HPLC separation of (±)-benzyl(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralpak AD, ethanol) provided two fractions.

reactant | (±)-1-(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 12.3 mmol, 3.41 g | ClC=1C=C(C2=C(CC(O2)CN)C1C)C(C)C | C13H18ClNO
reactant | diisopropylethylamine | 14.2 mmol, 1.99 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 14.2 mmol, 2.42 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(5-chloro-7-isopropyl-4-methyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 3.74 g, 81% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C(=C(C=C2C(C)C)Cl)C)=O | C21H24ClNO3
